US03992544
1,5-Dibenzyl-4,5,6,7-tetrahydro-7-methyl-2-phenyl-1H-pyrrolo[3,2-c]pyridine
A mixture of 1-benzyl-3-methyl-5-phenacyl-4-piperidone (3.2 g), benzylamine(1.1 g), p-toluenesulphonic acid (0.1 g) and dry toluene (100 ml) was heated under reflux under a Dean and Stark trap for 3 days. Removal of thesolvent left a yellow solid, which on recrystallisation from methanol gave 3.3 g of the product as pale yellow prisms. M.pt. 131° C (Found: C 85.2; H, 7.2; N, 7.1. C28H28N2 requires: C, 85.7; H, 7.2;N, 7.1%).

reactant | 1-benzyl-3-methyl-5-phenacyl-4-piperidone | 3.2 g | C(C1=CC=CC=C1)N1CC(C(C(C1)CC(=O)C1=CC=CC=C1)=O)C | C21H23NO2
reactant | benzylamine | 1.1 g | C(C1=CC=CC=C1)N | C7H9N
catalyst | p-toluenesulphonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1,5-Dibenzyl-4,5,6,7-tetrahydro-7-methyl-2-phenyl-1H-pyrrolo[3,2-c]pyridine | 3.3 g | C(C1=CC=CC=C1)N1C(=CC=2CN(CC(C21)C)CC2=CC=CC=C2)C2=CC=CC=C2 | C28H28N2
